US04218236
a. Formation of 5-[1 -(4-methylphenoxy)ethyl]-2-amino-1,3,4-thiadiazole
A 100 milliliter flask adapted with a paddle stirrer, thermometer, addition funnel, condenser and drying tube was charged with 7.2 grams (0.040 mole) of 2-(4-methylphenoxy)propanoic acid, 3.6 grams (0.040 mole) of thiosemicarbazide and 30 milliliters of dioxane, and heated to 90° C., the addition funnel was charged with phosphorous oxychloride (POCl3), (6.7 grams, 0.4 mole) which was slowly added for 15 minutes while maintaining the temperature within 90°-95° C. When the addition was completed, the mixture was refluxed for 60 minutes. The flask was evacuated by using a water aspirator to remove volatiles (HCl, POCl3 and some dioxane), and then 50 milliliters of water was added and mixture was made basic by the addition of 50 percent solution of NaOH until the pH of the solution was 10. The white precipitate was filtered off, washed with water and dried in a vacuum oven at 80° C. to 7.7 grams of tan crystals (melting point 142°-162° C.) which were crystallized from the minimum amount of a water ethanol mixture, filtered off and dried in a vacuum oven at 80° C. to 4.8 grams of yellow crystals of 5-[1-(4-methylphenoxy)ethyl]-2-amino-1,3,4-thiadiazole (melting point 178°-180° C.).

reactant | 2-(4-methylphenoxy)propanoic acid | 0.040 mole, 7.2 grams | CC1=CC=C(OC(C(=O)O)C)C=C1 | C10H12O3
reactant | thiosemicarbazide | 0.040 mole, 3.6 grams | NNC(=S)N | CH5N3S
reactant | phosphorous oxychloride | 0.4 mole, 6.7 grams | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dioxane | 30 milliliters | O1CCOCC1 | C4H8O2
product | 5-[1 -(4-methylphenoxy)ethyl]-2-amino-1,3,4-thiadiazole | CC1=CC=C(OC(C)C2=NN=C(S2)N)C=C1 | C11H13N3OS
